US08685980B2
Following General Procedure D, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and bromomethyl cyclohexane (122 mg, 0.690 mmol) gave 2-[5-(4-cyclohexylmethyl-piperazin-1-yl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (75 mg, 63%). MS (ESI) m/z 531.4 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | bromomethyl cyclohexane | 0.690 mmol, 122 mg | BrCC1CCCCC1 | C7H13Br
product | 2-[5-(4-cyclohexylmethyl-piperazin-1-yl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 75 mg, 63% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)CC2CCCCC2)N1C1CCCC1)C | C30H42N8O
